US05653914
2,5-Dimethoxystilbene-4'-methanol (1.18 g, 4.36 mmol) in dichloromethane (3 ml) and hydrochloric acid (10M, 100 ml) was stirred for 1 h at room temperature. Ether (100 ml) and water (100 ml) were added and the organic layer separated, washed with water (2×125 ml), dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography over silica (dichloromethane) to give 4'-chloromethyl-2,5-dimethoxystilbene (856 mg, 68%); δH ; (CDCl3) 3.83 (3 H, s, OCH3), 3.85 (3 H, s, OCH3), 4.59 (2 H, s, CH2Cl), 6.81 (1H, dd, J=8.8, 2.7 Hz), 6.85 (1 H, d, J=8.8 Hz), 7.10 and 7.49 (2 H, d, J=16.5 Hz, vinylic H), 7.17 (1 H, d, J=2.7 Hz), 7.37 and 7.53 (4 H, AA'BB'); δc (CDCl3) 46.1, 55.7, 56.0, 111.5, 112.2, 113.6, 123.9, 126.8, 128.4, 128.7, 136.4, 137.9, 151.4 and 153.6.

reactant | 2,5-Dimethoxystilbene-4'-methanol | 4.36 mmol, 1.18 g | COC1=C(C=C(C=C1)OC)C=CC1=CC=C(C=C1)CO | C17H18O3
reactant | Ether | 100 ml | CCOCC | C4H10O
reactant | water | 100 ml | O | H2O
reactant | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | hydrochloric acid | 10M, 100 ml | Cl | ClH
product | 4'-chloromethyl-2,5-dimethoxystilbene | 856 mg, 68% | ClCC1=CC=C(C=CC2=C(C=CC(=C2)OC)OC)C=C1 | C17H17ClO2
